US06001997
(a) Diphenylmethyl (6R,7R)-7-phenylacetamido-3-(tetra-hydrofuran-2-yl)ceph-2-em-4-carboxylate
A solution of (tetrahydrofuran-2-yl)tri-n-butylstannane (J. S. Sawyer, A. Kucerovy, T. L. MacDonald, and G. J. McGarvey, J. Amer. Chem. Soc., 1988, 110, 842) (3.0 g, 8.30 mmol) in THF (20 ml) was cooled to -78° C. n-Butyl lithium (6.23 ml of a 1.6M solution in hexane, 9.97 mmol) was then added and the solution was stirred for 15 min. at -78° C. A second flask containing copper (I) bromide.dimethyl-sulphide complex (0.854 g, 4.14 mmol) suspended in a mixture of dimethyl sulphide (15 ml) and THF (30 ml) was then cooled to -78° C. The α-lithiotetrahydrofuran species was transferred via a cannula to the suspension of copper bromide at -78° C. The red-brown homogeneous solution was stirred for 30 min. at -78° C. A third flask containing a solution of diphenylmethyl 7-phenylacetamido-3-triflyloxyceph-3-em-4-carboxylate (V. Farina, S. R. Baker, and S. I. Hanck, J. Org. Chem., 1989, 54, 4962) (1.9 g, 3.0 mmol) in a mixture of N-methylpyrrolidinone (20 ml) and THF (50 ml) was then cooled to -78° C. The cuprate species was transferred via a cannula to the solution of triflate at -78° C. The reaction mixture was stirred for 1 h at -78° C. then quenched by the addition of saturated aq. ammonium chloride (30 ml). The resulting mixture was allowed to warm to room temperature then diluted with water (100 ml) and extracted with ethyl acetate (100 ml, 30 ml). The combined organic phases were washed with water, brine, then dried over magnesium sulphate. After removal of the solvents under reduced pressure the crude reaction product was purified by flash chromatography on silica gel using 10-30% ethyl acetate/methylene dichloride as eluent. After elution of the 3-n-butylcephem, the title compound was obtained as a mixture of diastereoisomers of the Δ2 and Δ3 cephems (1.014 g, 61%).

reactant | (tetrahydrofuran-2-yl)tri-n-butylstannane | O1C(CCC1)[Sn](CCCC)(CCCC)CCCC
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | diphenylmethyl 7-phenylacetamido-3-triflyloxyceph-3-em-4-carboxylate | 3.0 mmol, 1.9 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H23F3N2O7S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulphide | 15 ml | CSC | C2H6S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | N-methylpyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | copper (I) bromide | [Cu]Br
catalyst | copper bromide | [Cu](Br)Br
product | Diphenylmethyl (6R,7R)-7-phenylacetamido-3-(tetra-hydrofuran-2-yl)ceph-2-em-4-carboxylate | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(C(=CS2)C2OCCC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H30N2O5S
